US07910576B2
3,5-Dimethyl-4-{2-oxo-2-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-acetyl}-1H-pyrrole-2-carboxylic acid
To a solution of 0.100 g (0.221 mmol) 3,5-dimethyl-4-{2-oxo-2-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-acetyl}-1H-pyrrole-2-carboxylic acid ethyl ester in 2 ml ethanol and 1 ml water 0.018 g (0.443 mmol) NaOH were added. The solution was stirred at 80° C. for 5 h. The solvent was evaporated and 1 N HCl was added to the residue. The precipitate was filtered off and dried to yield 80 mg (85%) of the title compound. MS 424.15 (M+H)+,

reactant | 3,5-dimethyl-4-{2-oxo-2-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-acetyl}-1H-pyrrole-2-carboxylic acid ethyl ester | 0.221 mmol, 0.100 g | C(C)OC(=O)C=1NC(=C(C1C)C(C(N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)=O)=O)C | C22H24F3N3O4
reactant | water | 0.443 mmol, 1 ml, 0.018 g | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 3,5-Dimethyl-4-{2-oxo-2-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-acetyl}-1H-pyrrole-2-carboxylic acid | 80 mg, 85% | CC1=C(NC(=C1C(C(N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)=O)=O)C)C(=O)O | C20H20F3N3O4
